US07635715B2
Step G: Preparation of 1,1-Dimethylethyl N-((4-hydroxy-1,1-dimethyl-2-oxo-5-(trifluoromethyl)-naphthalen-3-yl)carbonyl)glycinate
DIPEA (40 μL, 0.23 mmol), tert-butylglycine hydrochloride (38 mg), and ethyl 4-hydroxy-1,1-dimethyl-2-oxo-5-(trifluoromethyl)-naphthalene-3-carboxylate (50 mg, 0.15 mmol) were heated in dioxane (2 mL) for 5 hours, cooled to room temperature, and then concentrated under vacuum. The residue was purified by column chromatography to give the product as a yellow oil (30 mg). MS (m/z)=358.4[M-tBu]+

reactant | DIPEA | 0.23 mmol, 40 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | tert-butylglycine hydrochloride | 38 mg | Cl.N[C@@H](C(C)(C)C)C(=O)O
reactant | ethyl 4-hydroxy-1,1-dimethyl-2-oxo-5-(trifluoromethyl)-naphthalene-3-carboxylate | 0.15 mmol, 50 mg | OC1=C(C(C(C2=CC=CC(=C12)C(F)(F)F)(C)C)=O)C(=O)OCC | C16H15F3O4
reactant | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 1,1-Dimethylethyl N-((4-hydroxy-1,1-dimethyl-2-oxo-5-(trifluoromethyl)-naphthalen-3-yl)carbonyl)glycinate | 30 mg | OC1=C(C(C(C2=CC=CC(=C12)C(F)(F)F)(C)C)=O)C(=O)NCC(=O)OC(C)(C)C | C20H22F3NO5
